US04214094
A mixture of 500 mg of 4-(4-chloroanilinomethyl)phenol, 632 mg of ethyl 2-bromo-2-methylpropionate, 7.5 ml of methyl isobutyl ketone and 448 mg of potassium carbonate is refluxed under heating for 6 hours. The insolubles are filtered off from the reaction mixture, and the filtrate is washed with water, dried and concentrated. The residue (730 mg) is purified by column chromatography, using 22 g of silica gel and chloroform as a developer to give 410 mg of ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate, mp 58° to 60° C.

reactant | 4-(4-chloroanilinomethyl)phenol | 500 mg | ClC1=CC=C(NCC2=CC=C(C=C2)O)C=C1 | C13H12ClNO
reactant | ethyl 2-bromo-2-methylpropionate | 632 mg | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 448 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | 7.5 ml | C(C(C)C)C(=O)C | C6H12O
product | ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate | 410 mg | ClC1=CC=C(NCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1 | C19H22ClNO3
